US09427475B2
Step C: 2-oxoethyl 2,3,4-tri-O-acetyl-α-L-fucopyranoside
To a solution of prop-2-en-1-yl 2,3,4-tri-O-acetyl-α-L-fucopyranoside (1.34 g, 4.06 mmol) in acetone (30 mL) and water (7.5 mL) was added 4-methylmorpholine 4-oxide (950 mg, 8.11 mmol) followed by the addition of 2.5% OsO4 in tert-butanol (2.04 mL, 0.162 mmol). The mixture was allowed to stir at rt for 16 hr. To the resulting mixture was then added a solution of NaIO4 (1.74 g, 8.11 mmol) in water (15 mL). After stirring for additional 4 hr, the precipitate was filtered and washed with acetone (50 mL). The volume of the filtrate was reduced to approximately ⅓ of the initial volume and then diluted with sat. NaHCO3 (100 mL). The mixture was extracted with EtOAc (3×50 mL). The organic phases were combined and washed with brine, dried over Na2SO4, and concentrated. The residue was purified by silica gel column chromatography (Teledyne Isco: 120 g), eluting with 0-80% EtOAc in hexanes to give the title compound (660 mg, 49%). 1H NMR (CDCl3) δ 9.72 (1H, s), 5.44 (1H, dd, J=10.9 and 3.3 Hz), 5.35 (1H, dd, J=3.4 and 1.8 Hz), 5.19 (1H, dd, J=10.9 and 3.8 Hz), 5.13 (1H, d, J=3.8 Hz), 4.26 (3H, m), 2.19 (3H, s), 2.15 (3H, s), 2.02 (3H, s), 1.17 (3H, d, J=6.6 Hz).

reactant | prop-2-en-1-yl 2,3,4-tri-O-acetyl-α-L-fucopyranoside | 4.06 mmol, 1.34 g | C(C)(=O)O[C@@H]1[C@H](OCC=C)O[C@H]([C@H]([C@H]1OC(C)=O)OC(C)=O)C | C15H22O8
reactant | 4-methylmorpholine 4-oxide | 8.11 mmol, 950 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | acetone | 30 mL | CC(=O)C | C3H6O
solvent | water | 7.5 mL | O | H2O
solvent | water | 15 mL | O | H2O
catalyst | OsO4 | O=[Os](=O)(=O)=O
catalyst | tert-butanol | 0.162 mmol, 2.04 mL | C(C)(C)(C)O | C4H10O
product | 2-oxoethyl 2,3,4-tri-O-acetyl-α-L-fucopyranoside | 660 mg, 49% | C(C)(=O)O[C@@H]1[C@H](OCC=O)O[C@H]([C@H]([C@H]1OC(C)=O)OC(C)=O)C | C14H20O9
